US07452906B2
Step 3. 4-(3-Bromo-furan-2-yl)-pyridine
A degassed mixture of 2,3-dibromofuran (11.3 g, 50 mmol), 4-pyridyl boronic acid (M. Lamothe et al, J. Med. Chem., 1997, 40, 3542) (6.15 g, 50 mmol) and potassium carbonate (55 g, 0.4 mol) in ethylene glycol dimethyl ether (300 ml) and water (150 ml) was treated with triphenylphosphine (1.31 g, 5 mmol) and palladium acetate (625 mg, 2.5 mmol) then heated under reflux for 18 hours. After cooling to room temperature, the mixture was filtered through filter aid and the filtrate diluted with water and ethyl acetate. The organic phase was separated, washed with water and brine, dried, concentrated in vacuo and the residue purified by silica gel chromatography to give the title compound (6.0 g, 54%); MS(ES+) m/e 224/226 [M+H]+.

reactant | 2,3-dibromofuran | 50 mmol, 11.3 g | BrC=1OC=CC1Br | C4H2Br2O
reactant | 4-pyridyl boronic acid | 50 mmol, 6.15 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 0.4 mol, 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 5 mmol, 1.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethylene glycol dimethyl ether | 300 ml | COCCOC | C4H10O2
solvent | water | 150 ml | O | H2O
catalyst | palladium acetate | 2.5 mmol, 625 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(3-Bromo-furan-2-yl)-pyridine | 6.0 g, 54% | BrC1=C(OC=C1)C1=CC=NC=C1 | C9H6BrNO
